Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Zocor / Penicillins / Bactrim DS
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of atrial
fibrillation and recent cardioversion who comes in with ~18 
hours
of "feeling lousy". At lunch he had a salad with "lots of
dressing" and began to feel uncomfortable in his epigastrium.
After dinner he once again felt this sensation, and as he was
attempting to fall asleep he noted palpitations and chills. He
notes normal appetite and normal stool.
 

 
Past Medical History:
Prostate CA s/p prostatectomy ___  
HTN  
Hyperlipidemia  
Adenoid hypertrophy s/p XRT as a child  
Nasal polyps  
Lumbar disc disease with hyperesthesia R foot  
Atrial fibrillation with recent cardioversion
 
Social History:
___
Family History:
father with CABG in his ___. grandfather with unknown heart 
disease.
 
Physical Exam:
Vitals: T=97.8, Hr~80 (irregular pulse), BP=132/82 
GEN: A&O, NAD
HEENT: No scleral icterus
CV: Irregularly irregular rhythm, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, no rebound or guarding, normoactive,
___ tenderness when palpating RUQ. No palpable masses
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 02:15AM   WBC-6.7 RBC-4.58* HGB-14.4 HCT-42.3 MCV-92 
MCH-31.4 MCHC-34.0 RDW-14.1
___ 02:15AM   NEUTS-73.2* LYMPHS-15.1* MONOS-7.1 EOS-3.7 
BASOS-0.9
___ 02:15AM   PLT COUNT-271
___ 02:15AM   ___ PTT-37.8* ___
___ 02:15AM   ALT(SGPT)-24 AST(SGOT)-28 ALK PHOS-72 TOT 
BILI-0.3
___ 02:15AM   LIPASE-63*
___ 02:15AM   GLUCOSE-116* UREA N-22* CREAT-1.1 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-29 ANION GAP-15

___ Liver US :
Extensive gallbladder wall edema, a small amount of 
pericholecystic fluid and moderate gallbladder distention. 
Findings are non-specific and can be seen in the setting of 
cholecystitis, but also other processes such as heart failure or 
hepatitis. There are no gallstones. No CBD, or intrahepatic 
biliary ductal dilatation 

___ HIDA scan :
Chronic cholecystitis
 
Brief Hospital Course:
Mr. ___ was evaluated by the Acute Care service in the 
Emergency Room and based on his presenting symptoms and 
ultrasound he was admitted to the hospital to rule out acute 
cholecystitis. His WBC and LFT's were normal.  He was made NPO, 
hydrated with IV fluids and placed on broad spectrum 
antibiotics.

His abdominal pain resolved and he had a HIDA scan which 
revealed chronic cholecystitis.  His options were reviewed 
including surgery during this admission or on an elective basis 
and he preferred to plan it electively.  He is aware that his 
pain could return and if so he will return to the Emergency 
Room.  He was given a low fat diet which he tolerated well and 
was discharged with instructions to follow up in the ___ 
in 2 weeks.  Dr. ___ was also in to visit and aware of the 
HIDA scan results.

Of note, he was recently cardioverted for atrial fibrillation 
but since this admission he has been in rate controlled atrial 
fibrillation in the 70 - 80 range.  He will resume all of his 
cardiac medications including Pradaxa and follow up with Dr. 
___.  He has had no chest pain, shortness of breath or 
palpitations.
 
Medications on Admission:
atorvastatin [Lipitor] 20 mg Tablet daily,
sildenafil [Viagra] 50 mg prn, triamcinolone acetonide [Nasacort 
AQ] 
55 mcg Aerosol, Spray one squirt nasal inhalation twice a day,
valsartan [Diovan] 320 mg Tablet daily, aspirin 81 mg, 
darbigotran 150 mg BID

 
Discharge Medications:
1. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. diltiazem HCl 240 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO DAILY (Daily).  
3. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Pradaxa 150 mg Capsule Sig: One (1) Capsule PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital with abdominal pain and your 
scans revealed chronic inflammation of your gallbladder.
* The gallbladder should be removed at some point and you have 
decided to do it on an elective basis.
* The pains that you suffered could return and if they do, 
please return to the Emergency Room.
* You should eat foods low in fat and stay well hydrated.
* Your heart rhythme is atrial fibrillation.  Please continue 
all of your heart medications including the Pradaxa.  Your heart 
rate is well controlled.
* If you develop any more abdominal pain, chest pains, 
palpitations or any new symptoms that concern you please call 
your doctor or return to the Emergency Room.

 
Followup Instructions:
___